US05462952
Methanesulfonic acid (260 μl, 4.01 mmoles) is added dropwise to a suspension of 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, 2-(aminothioxo-methyl)hydrazide (865.9 mg, 2.44 mmoles) in 30 ml of toluene. The mixture is heated at reflux for two hours. The solvent is decanted from the bright red oil. The oil is washed with toluene and stirred with ether to yield a red solid. The solid is filtered off and suspended in 50 ml of ethyl acetate. The suspension is stirred vigorously with 10% aqueous ammonium hydroxide and the layers are separated. The ethyl acetate layer is washed with water and dried over magnesium sulfate. Filtration and concentration in vacuo gives a light brown solid that is purified by flash chromatography eluting with a gradient of hexane and ethyl acetate (1:1 to 1:3) to provide 289.5 mg (35%) of 5-[2-[(3-trifluoromethylphenyl)amino]phenyl]-1,3,4-thiadiazol-2-amine, mp 122°-123° C.

reactant | Methanesulfonic acid | 4.01 mmoles, 260 μl | CS(=O)(=O)O | CH4O3S
reactant | 2-[(3-trifluoromethylphenyl)amino]-benzoic acid, 2-(aminothioxo-methyl)hydrazide | 2.44 mmoles, 865.9 mg | NC(NNC(C1=C(C=CC=C1)NC1=CC(=CC=C1)C(F)(F)F)=O)=S | C15H13F3N4OS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[2-[(3-trifluoromethylphenyl)amino]phenyl]-1,3,4-thiadiazol-2-amine | 289.5 mg, 35% | FC(C=1C=C(C=CC1)NC1=C(C=CC=C1)C1=NN=C(S1)N)(F)F | C15H11F3N4S
